US09085575B2
0.55 g (2.5 mmol) of ethyl 3-(4-methoxyphenyl)-3-oxopropanoate, 10 ml of ethanol and 0.3 ml (3 mmol) of piperidine are added respectively to 1 g (2.5 mmol) of tert-butyl 4-(4-(3-amino-2-cyano-3-thioxoprop-1-enyl)-3-nitrophenyl)piperazine-1-carboxylate. The reaction mixture is stirred at room temperature for 5 h and then 0.31 ml (5 mmol) of methyl iodide is added. After 12 h of stirring, 3 ml of acetic acid is added and the reaction medium is carried at 50° C. for 24 hours. After returning to room temperature, the solvents are evaporated and the residue is purified by silica gel chromatography (eluent: 3:7 cyclohexane/ethyl acetate) to yield 1.3 g (83%) of tert-butyl 4-(4-(3-cyano-5-(ethoxycarbonyl)-6-(4-methoxyphenyl)-2-(methylthio)-1,4-dihydropyridine-4-yl)-3-nitrophenyl)piperazine-1-carboxylate in the form of a light yellow powder.

reactant | ethyl 3-(4-methoxyphenyl)-3-oxopropanoate | 2.5 mmol, 0.55 g | COC1=CC=C(C=C1)C(CC(=O)OCC)=O | C12H14O4
reactant | piperidine | 3 mmol, 0.3 ml | N1CCCCC1 | C5H11N
reactant | tert-butyl 4-(4-(3-amino-2-cyano-3-thioxoprop-1-enyl)-3-nitrophenyl)piperazine-1-carboxylate | 2.5 mmol, 1 g | NC(C(=CC1=C(C=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-])C#N)=S | C19H23N5O4S
reactant | methyl iodide | 5 mmol, 0.31 ml | CI | CH3I
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | tert-butyl 4-(4-(3-cyano-5-(ethoxycarbonyl)-6-(4-methoxyphenyl)-2-(methylthio)-1,4-dihydropyridine-4-yl)-3-nitrophenyl)piperazine-1-carboxylate | 1.3 g, 83% | C(#N)C1=C(NC(=C(C1C1=C(C=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-])C(=O)OCC)C1=CC=C(C=C1)OC)SC | C32H37N5O7S
